US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-pyridylmethyl) pyrrolidine (1.0 g), thiobenzoic acid (973 μl) and triphenylphosphine (1.30 g) in tetrahydrofuran (20 ml) was added dropwise diethyl azodicarboxylate (1.2 ml) at 0° C. The reaction mixture was stirred for 30 minutes, and then diluted with water and ethyl acetate. The aqueous layer was separated and extracted twice with ethyl acetate. The combined organic layer was washed with water (twice) and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-(2-pyridylmethyl)pyrrolidine (1.34 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-(2-pyridylmethyl) pyrrolidine | 1.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CC1=NC=CC=C1 | C14H18N2O3
reactant | thiobenzoic acid | 973 μl | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | triphenylphosphine | 1.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-(2-pyridylmethyl)pyrrolidine | 1.34 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CC1=NC=CC=C1 | C21H22N2O3S
